US04713382
A solution of 0.10 mole of N-[3,5-dichlorophenyl]-N'-methyl-4-[2-methoxy-4-hydroxy phenyl]-1-piperazine-carboxamidine, 0.12 mole of pyridine and 0.12 mole of acetic anhydride in 250 ml of dichloromethane was stirred 12 hours at room temperature and poured into 2 L water. The organic phase was separated, washed with cold water, dried on sodium sulfate and evaporated. The residue (oil) was purified by flash chromatography on silica gel (200 mesh) using ethylacetate (60)/methanol (40) as eluant. The first 250 ml of eluant were collected and evaporated, and the residue further purified by recrystallization, to give N-[3,5-dichlorophenyl]-N'-methyl-4-[2-methoxy-4-acetyloxy-phenyl]-1-piperazine-carboxamidine, m.p. 144° C.

reactant | N-[3,5-dichlorophenyl]-N'-methyl-4-[2-methoxy-4-hydroxy phenyl]-1-piperazine-carboxamidine | 0.10 mole | ClC=1C=C(C=C(C1)Cl)NC(=NC)N1CCN(CC1)C1=C(C=C(C=C1)O)OC | C19H22Cl2N4O2
reactant | pyridine | 0.12 mole | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.12 mole | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 2 L | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N-[3,5-dichlorophenyl]-N'-methyl-4-[2-methoxy-4-acetyloxy-phenyl]-1-piperazine-carboxamidine | ClC=1C=C(C=C(C1)Cl)NC(=NC)N1CCN(CC1)C1=C(C=C(C=C1)OC(C)=O)OC | C21H24Cl2N4O3
